US05322954
Dimethyl-4,5-dichloro-4-fluoro-3,4,5,6-tetrahydrophthalate
Dimethyl 4-chloro-3,6-dihydrophthalate (1.1 g) and N-chlorosuccinimide (0.6 g) in methylene chloride (4.1 g) was added to pyridinium poly(hydrogen fluoride) (3.1 g) at room temperature. The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was carefully poured into methylene chloride containing solid sodium carbonate. The methylene chloride layer was filtered and dried with magnesium sulfate and the solvent removed under reduced pressure.

reactant | Dimethyl 4-chloro-3,6-dihydrophthalate | 1.1 g | ClC=1CC(=C(C(=O)OC)CC1)C(=O)OC | C10H11ClO4
reactant | N-chlorosuccinimide | 0.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | pyridinium poly(hydrogen fluoride) | 3.1 g | C1=CC=NC=C1.F
solvent | methylene chloride | 4.1 g | C(Cl)Cl | CH2Cl2
product | Dimethyl-4,5-dichloro-4-fluoro-3,4,5,6-tetrahydrophthalate | COC(C1=C(C(=O)OC)CC(C(C1)Cl)(F)Cl)=O | C10H11Cl2FO4
